US06441017B1
Step A: N-Acetyl-2-bromo-6-nitroaniline
2-Bromoaniline (15 g, 87.2 mmol) was dissolved in acetic anhydride (76 mL, 0.610 mol) and cooled to 6° C. HNO3 (11 mL, 0.174 mol) was added dropwise and reaction mixture was stirred for 18 hours at 6° C. The reaction mixture was poured into H2O and extracted with CH2Cl2 (3×). The combined organic extracts were dried over Na2SO4, filtered and concentrated in vacuo. The residue was crystallized from EtOAc—hexane, to yield the above-titled compound.

reactant | 2-Bromoaniline | 87.2 mmol, 15 g | BrC1=C(N)C=CC=C1 | C6H6BrN
reactant | acetic anhydride | 0.610 mol, 76 mL | C(C)(=O)OC(C)=O | C4H6O3
reactant | HNO3 | 0.174 mol, 11 mL | [N+](=O)(O)[O-] | HNO3
solvent | H2O | O | H2O
product | N-Acetyl-2-bromo-6-nitroaniline | C(C)(=O)NC1=C(C=CC=C1[N+](=O)[O-])Br | C8H7BrN2O3
